US08664216B2
To a suspension of 5-fluoro-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one (420 mg, 1.9 mmol) in tetrahydrofuran (4.2 ml) was added dropwise a 1M borane solution in tetrahydrofuran (3.8 ml, 3.8 mmol) at 0° C. The mixture was refluxed overnight and then cooled to 0° C. HCl 5 N (2 ml) was added dropwise. The mixture was refluxed for 5 hours, cooled to 0° C., diluted with water and basified with NaOH 5 N (pH 10). The mixture was extracted 3 times with ethyl acetate. The combined extracts were dried over Na2SO4, filtered and concentrated in vacuo. The residue was stirred with ether and filtrated. The filtrate was concentrated in vacuo to provide 0.22 g (55%) of 5-fluoro-3H-spiro[2-benzofuran-1,4′-piperidine] as a light yellow oil.

reactant | 5-fluoro-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one | 1.9 mmol, 420 mg | FC1=CC2=C(C=C1)C1(CCNCC1)OC2=O | C12H12FNO2
reactant | borane | 1M | B | BH3
reactant | HCl | 5 N, 2 ml | Cl | ClH
reactant | NaOH | 5 N, pH 10 | [OH-].[Na+]
solvent | tetrahydrofuran | 4.2 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | tetrahydrofuran | 3.8 mmol, 3.8 ml | O1CCCC1 | C4H8O
product | 5-fluoro-3H-spiro[2-benzofuran-1,4′-piperidine] | 0.22 g, 55% | FC1=CC2=C(C=C1)C1(CCNCC1)OC2 | C12H14FNO
